US03966773
Preparation of 2-(5-hydroxypentyl)cyclopentanone/2-(5-acetoxypentyl)-cyclopentanone
A mixture of 4,500 g. (16.2 moles) of 2-(5-acetoxypentyl)-2-carbomethoxy/carboethoxy-cyclopentanone (Example 54), 2.2 l. of glacial acetic, 1 l. of concentrated hydrochloric acid, and 1 l. of water is refluxed for 18 hours, cooled, and partitioned between saturated brine and benzene. The organic phase is washed with saturated brine, dried (MgSO4), and evaporated in vacuo to yield 3155 g. of an oil.

reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(5-hydroxypentyl)cyclopentanone 2-(5-acetoxypentyl)-cyclopentanone | OCCCCCC1C(CCC1)=O.C(C)(=O)OCCCCCC1C(CCC1)=O | InChI=1S/C12H20O3.C10H18O2/c1-10(13)15-9-4-2-3-6-11-7-5-8-12(11)14;11-8-3-1-2-5-9-6-4-7-10(9)12/h11H,2-9H2,1H3;9,11H,1-8H2
